US09102623B2
Methyl N-({6-[chloro(difluoro)methyl]2 oxo-1,2-dihydropyridin-3-yl}carbonyl)glycinate
300 mg (1.34 mmol) of 6-[chloro(difluoro)methyl]-2-oxo-1,2-dihydropyridine-3-carboxylic acid were dissolved in 5 ml of tetrahydrofuran, 435 mg (2.68 mmol) of N,N-carbonyldiimidazole were added and the mixture was stirred initially at room temperature for 30 min and then under reflux for 30 min. A mixture of 168 mg (1.34 mmol) of glycine methyl ester hydrochloride in 3 ml of tetrahydrofuran was then added, and the mixture was heated under reflux for a further 2 h. The solution was evaporated to dryness, the residue was taken up in ethyl acetate and the solution was washed with 1N hydrochloric acid and water, dried and concentrated. This gave 92 mg (23% of theory) of a light-brown powder.

reactant | 6-[chloro(difluoro)methyl]-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 1.34 mmol, 300 mg | ClC(C1=CC=C(C(N1)=O)C(=O)O)(F)F | C7H4ClF2NO3
reactant | N,N-carbonyldiimidazole | 2.68 mmol, 435 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | glycine methyl ester hydrochloride | 1.34 mmol, 168 mg | Cl.COC(CN)=O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | Methyl N-({6-[chloro(difluoro)methyl]2 oxo-1,2-dihydropyridin-3-yl}carbonyl)glycinate | ClC(C1=CC=C(C(N1)=O)C(=O)NCC(=O)OC)(F)F | C10H9ClF2N2O4
